US05192785
A solution of 35.6 g (0.20 mole) of benzoylpropionic acid in 100 ml of tetrahydrofuran was added dropwise to 300 ml of a 1 molar solution of borane tetrahydrofuran complex in tetrahydrofuran. The mixture was stirred at ambient temperatures for 60 hr, giving a gel. This was treated with 100 ml of 2N hydrochloric acid solution and the mixture stirred for 15 min. Most of the tetrahydrofuran was removed on a rotary evaporator and the residue partitioned between methylene chloride and water. The aqueous layer was extracted again with methylene chloride. The combined extract was washed with water, dried (sodium sulfate), and concentrated to yield 24.30 g of 1-phenyl-1,4-butanediol. This intermediate was dissolved in acetone and heated at reflux temperature for 5 hr while 30 g of manganese dioxide was added in five portions. The reaction mixture was filtered and concentrated to a brown oil that was chromatographed on silica gel using 15% ethyl acetate-85% methylene chloride to elute the fraction identified by 1H nmr as the title compound. The fraction weighed 11.20 g, after concentration and was shown to have a purity greater than 90%.

reactant | benzoylpropionic acid | 0.20 mole, 35.6 g | C(C1=CC=CC=C1)(=O)C(C(=O)O)C | C10H10O3
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-phenyl-1,4-butanediol | 24.30 g | C1(=CC=CC=C1)C(CCCO)O | C10H14O2
